US06716856B1
Preparation of 3-Acetyloxy-5,5-dimethyl-2-cyclohexenone
Acetyl chloride (1.1 ml, 15.65 mmol) was added to a stirred solution of 5,5-dimethyl-cyclohexane-1,3-dione (2.1 g, 14.23 mmol) and pyridine (1.14 ml), in chloroform (50 ml). The mixture was stirred at room temperature for about 1.5 hours, then washed with water, 0.1N HCl, saturated aqueous sodium hydrogen carbonate and water. The organic phase was dried over sodium sulfate and evaporated to dryness to give 2.5 g (96%) of the title compound as a colourless oil, which was used as such without any further purification.

reactant | Acetyl chloride | 15.65 mmol, 1.1 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5,5-dimethyl-cyclohexane-1,3-dione | 14.23 mmol, 2.1 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | pyridine | 1.14 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Acetyloxy-5,5-dimethyl-2-cyclohexenone | 2.5 g, 96% | C(C)(=O)OC1=CC(CC(C1)(C)C)=O | C10H14O3
